US07084139B2
N-[(6-Chloro-2-naphthyl)sulfonyl]-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}glycine
To a solution of methyl N-[(6-chloro-2-naphthyl)sulfonyl]-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}glycinate (0.010 g) in THF (2 ml) was added lithium hydroxide (0.003 g) in water (2 ml), and the resultant solution stirred for 16 h. The mixture was acidified to pH5 using hydrochloric acid (2N), and then concentrated under reduced pressure. The residue was purified using mass directed preparative h.p.l.c. to give the title compound (0.006 g) as a white solid.

reactant | methyl N-[(6-chloro-2-naphthyl)sulfonyl]-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}glycinate | 0.010 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N(CC(=O)OC)[C@@H]1C(N(CC1)[C@H](C(=O)N1CCOCC1)C)=O | C24H28ClN3O7S
reactant | lithium hydroxide | 0.003 g | [OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | N-[(6-Chloro-2-naphthyl)sulfonyl]-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}glycine | 0.006 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N(CC(=O)O)[C@@H]1C(N(CC1)[C@H](C(=O)N1CCOCC1)C)=O | C23H26ClN3O7S
